US05162534
Preparation of methyl N-(2,2-dimethoxyethyl)dithiocarbamate (VI, R=R1 =methyl)
To a solution of 21 g (0.2 mole) of aminoacetaldehyde dimethylacetal in 150 ml of ethanol and 10 ml of water was added 24.3 g (0.24 mole) of triethylamine, and 16.8 g (0.22 mole) of carbon disulfide in portions at 0° to 5° C. After the reaction mixture was stirred for one hour at the same temperature, 31.2 g (0.22 mole) of methyl iodide was added dropwise in portions, and then was further stirred for one hour at 15°±5° C. The solvent was removed under reduced pressure (30 mmHg) and water was added thereto. Then, the mixture was extracted with ethylacetate, dried over anhydrous sodium sulfate and filtered. The solvent was removed under reduced pressure (30 mmHg) to obtain the desired liquid compound, 36.9 g (yield 95%).

reactant | aminoacetaldehyde dimethylacetal | 0.2 mole, 21 g | COC(CN)OC | C4H11NO2
reactant | triethylamine | 0.24 mole, 24.3 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 0.22 mole, 16.8 g | C(=S)=S | CS2
reactant | methyl iodide | 0.22 mole, 31.2 g | CI | CH3I
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | methyl N-(2,2-dimethoxyethyl)dithiocarbamate | yield 95% | COC(CNC(SC)=S)OC | C6H13NO2S2
